US06313122B1
A. 2-(4-chlorophenylaminocarbonyl)phenyl acetic acid
A solution of homophthalic anhydride (4.0 g, 24.7 mmol) in 250 mL of CHCl3 was treated with 4-chloroaniline (3.31 g, 25.9 mmol). After 16 h, the mixture was poured into EtOAc and 1 N NaOH. The aqueous layer was washed with EtOAc, then brought to a pH of 2-3 by addition of 1 N HCl. The aqueous layer was washed with EtOAc (2×), and the combined extracts were dried (MgSO4) and concentrated. Recrystallization of the residue from EtOAc/hexanes yielded 3.41g (48%) of the title compound.

reactant | homophthalic anhydride | 24.7 mmol, 4.0 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
reactant | 4-chloroaniline | 25.9 mmol, 3.31 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-chlorophenylaminocarbonyl)phenyl acetic acid | 3.41g, 48% | ClC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1)CC(=O)O | C15H12ClNO3
